US08685274B2
Toluene (50 ml) and p-toluenesulfonic acid monohydrate (0.14 g) were added to 3-butyl-1-(4-ethoxy-2,3-difluorophenyl)cyclopentanol (2.8 g) obtained in the second step, in a reaction vessel equipped with a Dean-Stark apparatus under an atmosphere of nitrogen. The mixture was refluxed for 30 minutes, while forming water was removed with a Dean-Stark apparatus. The reaction solution was cooled to room temperature and was washed with water. The solution was dried over anhydrous magnesium sulfate and the solvent was distilled off under reduced pressure. The residue was purified by silica gel chromatography (eluent: ethyl acetate/n-heptane= 1/9 by volume) to give a mixture (2.4 g) of 1-(3-butylcyclopent-1-enyl)-4-ethoxy-2,3-difluorobenzene and 1-(4-butylcyclopent-1-enyl)-4-ethoxy-2,3-difluorobenzene.

reactant | Toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
reactant | p-toluenesulfonic acid monohydrate | 0.14 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | 3-butyl-1-(4-ethoxy-2,3-difluorophenyl)cyclopentanol | 2.8 g | C(CCC)C1CC(CC1)(O)C1=C(C(=C(C=C1)OCC)F)F | C17H24F2O2
solvent | water | O | H2O
product | 1-(3-butylcyclopent-1-enyl)-4-ethoxy-2,3-difluorobenzene | 2.4 g | C(CCC)C1C=C(CC1)C1=C(C(=C(C=C1)OCC)F)F | C17H22F2O
